US06821967B2
b. 9-[4-(4-quinolin-2-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(propyl)-amide
Prepared analogously to Example 2b from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(propyl)-amide and 2-(piperazin-1-yl)-quinoline.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(propyl)-amide | C(CC)NC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr | C21H24BrNO
reactant | 2-(piperazin-1-yl)-quinoline | N1(CCNCC1)C1=NC2=CC=CC=C2C=C1 | C13H15N3
product | 9-[4-(4-quinolin-2-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(propyl)-amide | C(CC)NC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C34H38N4O
